US06806267B1
7-Acetoxy-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepine (PBOX-9)
To a suspension of potassium hydride (0.303 g, 2.64 mmol, 35% in oil) in anhydrous THF (5.0 mL) was added the (±)-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepin-7(6H)-one (0.9 g, 2.64 mmol) dissolved in anhydrous THF (7 mL). The reaction mixture was stirred at rt for 2 h, and then acetyl chloride (0.239 g, 3.04 mmol) was slowly added. After stirring for 12 h at rt, the solvent was removed in vacuo and the residue was dissolved in chloroform. The organic layer was washed with brine, dried and concentrated. The residue was chromatographed (dichloromethane and hexane 1:1) to give the PBOX-9 in 86% yield. IR (neat) 1762 cm−1; 1HNMR (CDCl3) δ 1.70 (s, 3 H) 6.45 (m, 1 H), 6.63 (m, 1 H), 7.19-7.55 (m, 10 H), 7.78-7.87 (m, 2 H).

reactant | potassium hydride | 2.64 mmol, 0.303 g | [H-].[K+]
reactant | (±)-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepin-7(6H)-one | 2.64 mmol, 0.9 g | C1(=CC=CC2=CC=CC=C12)C1SC2=C(N3C(C1=O)=CC=C3)C=CC=C2 | C22H15NOS
reactant | acetyl chloride | 3.04 mmol, 0.239 g | C(C)(=O)Cl | C2H3ClO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 7-Acetoxy-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepine | 86% yield | C(C)(=O)OC1=C(SC2=C(N3C1=CC=C3)C=CC=C2)C2=CC=CC3=CC=CC=C23 | C24H17NO2S
